US05405851
Pivalic anhydride (20 ml) was reacted with 3-amino-9-bromo-10-nitrobenzo[f]quinazolin-1(2H)-one (2.44 g, 7.28 mmoles) in the same manner as in example 2. The product was purified by trituration with hot ethyl acetate to give N-(9-bromo-1,2-dihydro-10-nitro-1-oxobenzo[f]quinazolin-3-yl)pivalamide as a light yellow solid. (1.67 g, 55%) 1H NMR (DMSO-d6, 200 MHz) δ: 1.25(s, 9H, t-butyl); 7.69(d, J=8.8 Hz, 1H, Ar); 8.02(d, J=8.7 Hz, 1H, Ar); 8.20(d, J=8.8 Hz, 1H, Ar); 8.34(d, J=9.0 Hz, 1H, Ar); 11.45(br s, 1H, NH); 12.18(br s, 1H, NH).

reactant | 3-amino-9-bromo-10-nitrobenzo[f]quinazolin-1(2H)-one | 7.28 mmoles, 2.44 g | NC1=NC=2C=CC3=C(C2C(N1)=O)C(=C(C=C3)Br)[N+](=O)[O-] | C12H7BrN4O3
reactant | Pivalic anhydride | 20 ml | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
product | N-(9-bromo-1,2-dihydro-10-nitro-1-oxobenzo[f]quinazolin-3-yl)pivalamide | BrC=1C=CC2=C(C=3C(NC(=NC3C=C2)NC(C(C)(C)C)=O)=O)C1[N+](=O)[O-] | C17H15BrN4O4
